US07968570B2
A mixture of 5-bromo-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.100 g, 0.25 mmol), PdCl2(PPh3)2 (0.009 g, 0.013 mmol), and CuI (0.0025 g, 0.013 mmol) in diisopropylamine (4 mL) was treated with dimethyl-2-propynyl-amine (0.032 mL, 0.3 mmol). The reaction mixture was stirred at 100° C. for 2 h. After the complete consumption of bromo-isoindolone (monitored using GC-MS), the reaction mixture was cooled to ambient temperature and diluted with ethyl acetate (20 mL). The solids were removed by filtration and the filtrate was concentrated. Silica gel column chromatography of the resulting material using combinations of chloroform-methanol (typically 10:1 CHCl3-MeOH) afforded 5-(3-dimethylamino-prop-1-ynyl)-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.061 g, 62%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.36 (s, 6H), 3.47 (s, 2H), 4.25 (s, 2H), 4.76 (s, 2H), 6.94-7.54 (m, 1H), 7.80 (d, 1H). GC-MS: 396 (M)+, 353 (M−43)+.

reactant | 5-bromo-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.25 mmol, 0.100 g | BrC=1C=C2CN(C(C2=CC1)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C21H16BrNO2
reactant | dimethyl-2-propynyl-amine | 0.3 mmol, 0.032 mL | CN(CC#C)C | C5H9N
solvent | diisopropylamine | 4 mL | C(C)(C)NC(C)C | C6H15N
catalyst | PdCl2(PPh3)2 | 0.013 mmol, 0.009 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.013 mmol, 0.0025 g | [Cu]I
product | 5-(3-dimethylamino-prop-1-ynyl)-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.061 g, 62% | CN(CC#CC=1C=C2CN(C(C2=CC1)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1)C | C26H24N2O2
